US04946921
(1) Synthesis of m-acetoxyisopropenylbenzene
250 g (1.86 mol) m-isopropenylphenol and 15 mL (0.19 mol) pyridine were placed in a four-neck flask equipped with a stirrer, reflux condenser, addition funnel, and thermometer. While stirring with cooling on a water bath, 200 mL (2.12 mol) acetic anhydride was dripped in. The reaction mixture was then diluted with ether and washed with water to neutrality. Drying and distillation afforded 310 g (1.76 mol) of the target material. The yield was 94%. The properties of this product are reported below.

reactant | m-isopropenylphenol | 1.86 mol, 250 g | C(=C)(C)C=1C=C(C=CC1)O | C9H10O
reactant | pyridine | 0.19 mol, 15 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 2.12 mol, 200 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ether | CCOCC | C4H10O
product | m-acetoxyisopropenylbenzene | 1.76 mol, 310 g, yield was 94% | C(C)(=O)OC=1C=C(C=CC1)C(=C)C | C11H12O2
